US07122545B2
0.05 g 5-Chloro-2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3H-imidazo[4,5-b]pyridine (0.11 mmol), 0.034 g 4-hydroxypiperidine (0.34 mmol), 1 mg DMAP and 0.4 ml Hünigs base (2.2 mmol) were dissolved in NMP (1 ml). After stirring for 72 h at 120° C., the reaction mixture was concentrated and the residue taken up in water. A precipitation formed, which was filtered and dried in vacuo to yield 0.04 g 1-[3-methoxymethyl-2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3H-imidazo[4,5-b]pyridin-5-yl]-piperidin-4-ol (70%) as a light brown solid; M.p.: 120–130° C.

reactant | 5-Chloro-2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3H-imidazo[4,5-b]pyridine | 0.11 mmol, 0.05 g | ClC1=CC=C2C(=N1)NC(=N2)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC | C18H16ClN5O2S
reactant | 4-hydroxypiperidine | 0.34 mmol, 0.034 g | OC1CCNCC1 | C5H11NO
reactant | Hünigs base | 2.2 mmol, 0.4 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | NMP | 1 ml | CN1CCCC1=O | C5H9NO
catalyst | DMAP | 1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-[3-methoxymethyl-2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3H-imidazo[4,5-b]pyridin-5-yl]-piperidin-4-ol | 0.04 g, 70% | COCN1C(=NC=2C1=NC(=CC2)N2CCC(CC2)O)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC | C25H30N6O4S
